US08114877B2
a) {2-Chloro-9-[(1R,4S)-4-(4-methyl-pyrazol-1-yl)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine
Carbonic acid (1S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopent-2-enyl ester ethyl ester (Intermediate AA) (2.00 g, 3.97 mmol) is placed in an oven-dried flask under an atmosphere of argon. Dry deoxygenated THF (20 mL) is added followed by 4-methyl-pyrazole (0.36 g, 4.37 mmol) and triphenylphosphine (0.16 g, 0.60 mmol). Tetrakis(triphenyl-phosphine)palladium(0) (0.23 g, 0.20 mmol) is then added and the reaction mixture is stirred at room temperature for 18 hours. The solvent is removed in vacuo and the title compound is obtained after purification by flash column chromatography (silica, iso-hexane/ethyl acetate 1:2). 1H nmr (CDCl3, 400 MHz); 8.10 (br s, 1H), 7.35-7.15 (m, 12H), 6.25 (m, 1H), 6.10 (m, 1H), 5.80 (m, 1H), 5.70 (m, 1H), 5.35 (m, 1H), 4.35 (t, 1H), 4.25 (m, 2H), 3.25 (m, 1H), 2.20 (m, 1H), 2.05 (s, 3H), MS (ES+) m/e 496 (MH+).

reactant | Carbonic acid (1S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopent-2-enyl ester ethyl ester | 3.97 mmol, 2.00 g | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)=O | C27H26ClN5O3
reactant | 4-methyl-pyrazole | 4.37 mmol, 0.36 g | CC=1C=NNC1 | C4H6N2
reactant | triphenylphosphine | 0.60 mmol, 0.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | {2-Chloro-9-[(1R,4S)-4-(4-methyl-pyrazol-1-yl)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=CC(=C1)C)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26ClN7
